US07776857B2
4-Aminophenol (340 mg, 3.1 mmol), 1-chloro-4-(4-methoxyphenyl)phthalazine (837 mg, 3.1 mmol), and sec-butanol (12 mL, 3.1 mmol) were combined in a resealable tube and heated to 100° C. overnight. The reaction progress was monitored by LCMS, and upon completion, the orange reaction was cooled diluted with diethyl ether. The resulting precipitate was filtered and washed with diethyl ether, and the solid was dried in vacuo to provide 4-(4-(4-methoxyphenyl)phthalazin-1-ylamino)phenol hydrochloride (1.17 g, 100% yield) as an orange solid. MS [M+H]=344.0. Calc'd for C19H21N5O: 343.13.

reactant | 4-Aminophenol | 3.1 mmol, 340 mg | NC1=CC=C(C=C1)O | C6H7NO
reactant | 1-chloro-4-(4-methoxyphenyl)phthalazine | 3.1 mmol, 837 mg | ClC1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)OC | C15H11ClN2O
reactant | sec-butanol | 3.1 mmol, 12 mL | C(C)(CC)O | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(4-(4-methoxyphenyl)phthalazin-1-ylamino)phenol hydrochloride | 1.17 g, 100% yield | Cl.COC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)O | InChI=1S/C21H17N3O2.ClH/c1-26-17-12-6-14(7-13-17)20-18-4-2-3-5-19(18)21(24-23-20)22-15-8-10-16(25)11-9-15;/h2-13,25H,1H3,(H,22,24);1H
